US07932270B2
To a solution of 2M LiBH4 (200 ml, 400 mmol) in THF at 0° C. was added TMSCl (101 ml, 800 mmol) slowly. The mixture was warmed up to r.t and stirred at r.t. for 30 min. To the mixture at 0° C. was added a solution of (R)-1-(tert-butoxycarbonyl)azetidine-2-carboxylic acid (40 g, 200 mmol) in 200 ml THF with an additional funnel over 1 hour. The mixture was warmed up to r.t and stirred at r.t. for 2 hours. The mixture was cooled down to 0° C. and then treated with 32 mL MeOH followed by 40 mL H2O. After removal of THF, the residue was extracted with 300 mL EtOAc and washed with 300 mL brine. The organic layer was dried and concentrated to give (R)-tert-butyl 2-(hydroxymethyl)azetidine-1-carboxylate as a colorless oil (32.5 g, 87%). LRMS (M−100+H+) m/z 132.1.

reactant | LiBH4 | 400 mmol, 2M, 200 ml | [Li+].[BH4-]
reactant | TMSCl | 800 mmol, 101 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | (R)-1-(tert-butoxycarbonyl)azetidine-2-carboxylic acid | 200 mmol, 40 g | C(C)(C)(C)OC(=O)N1[C@H](CC1)C(=O)O | C9H15NO4
reactant | MeOH | 32 mL | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | H2O | 40 mL | O | H2O
product | (R)-tert-butyl 2-(hydroxymethyl)azetidine-1-carboxylate | 32.5 g, 87% | OC[C@@H]1N(CC1)C(=O)OC(C)(C)C | C9H17NO3
